US07709471B2
2-fluoro-5-methoxy-4-nitro-benzoic acid
2,5-Difluoro-4-nitrobenzoic acid (Fluorochem; 100 mg, 0.43 mmol) and caesium carbonate (708 mg, 2.17 mmol) were taken up in dry DMF (2 mL) and dry methanol (120 uL, 2.88 mmol) was added and the reaction stirred at room temperature for 2 hrs. The reaction mixture was diluted with Ethyl Acetate (50 mL) and water (50 mL) and acidified to pH1 with 2N HCl solution. The organics were removed and the aqueous further extracted with Ethyl Acetate (2×50 mL). The combined organics were washed with water (50 mL), brine (50 mL), dried over MgSO4 and concentrated under reduced pressure to give the title compound as a yellow solid (91 mg, 0.42 mmol, 98%).

reactant | 2,5-Difluoro-4-nitrobenzoic acid | 0.43 mmol, 100 mg | FC1=C(C(=O)O)C=C(C(=C1)[N+](=O)[O-])F | C7H3F2NO4
reactant | caesium carbonate | 2.17 mmol, 708 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methanol | 2.88 mmol, 120 uL | CO | CH4O
reactant | HCl | 2N | Cl | ClH
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | Ethyl Acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
product | 2-fluoro-5-methoxy-4-nitro-benzoic acid | 0.42 mmol, 91 mg, 98% | FC1=C(C(=O)O)C=C(C(=C1)[N+](=O)[O-])OC | C8H6FNO5
